US07956216B2
91A: 1-Biphenyl-3-yl-2-diazo-ethanone
A mixture of 3-phenylbenzoic acid (595 mg, 3 mmol) and thionyl chloride (1 mL) was heated at 60° C. for 2.5 hours. After this time, the thionyl chloride was removed under vaccum. Toluene was then added and the resulting solution was concentrated. This procedure was repeated two more times. The oily residue was then dissolved in dry THF. At 0° C., triethylamine (304 μL, 3 mmol) and trimethylsilyldiazomethane were added successively. The reaction was then stirred for 20 hours at room temperature. The reaction was concentrated. Purification of the residue by flash chromatography using CH2Cl2/AcOEt 95:5 to 85:15 gave the compound as a yellow thick oil (141 mg, 21%). NMR 1H (ppm, CDCl3): 7.98 (t., J3=1.37 Hz, 1H), 7.74-7.67 (m, 2H), 7.60-7.57 (m, 2H), 7.50-7.24 (m, 4H), 5.95 (s, 1H). MS (+ESI): M+H+: 222.9.

reactant | 3-phenylbenzoic acid | 3 mmol, 595 mg | C1(=CC=CC=C1)C=1C=C(C(=O)O)C=CC1 | C13H10O2
reactant | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 3 mmol, 304 μL | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
product | 1-Biphenyl-3-yl-2-diazo-ethanone | 141 mg, 21% | C1(=CC(=CC=C1)C(C=[N+]=[N-])=O)C1=CC=CC=C1 | C14H10N2O
